US07544695B2
N-[2-Amino-5-(2-thienyl)phenyl]-6-(2,7-diazaspiro[3.5]non-7-yl)nicotinamide
tert-Butyl [2-{[(6-chloropyridin-3-yl)carbonyl]amino}-4-(2-thienyl)phenyl]carbamate F (20 mg, 0.088 mmol) was dissolved in 1 mL of DMSO and treated with Et3N(0.010 mL) and tert-butyl 2,7-diazaspiro[3.5]nonane-2-carboxylate (20 mg, 0.047 mmol). The mixture was stirred at 90° C. for 18 h, partitioned between EtOAc and saturated NaHCO3, dried (MgSO4), filtered and concentrated), concentrated and the residue was purified by chromatography on SiO2 (EtOAc/CH2Cl2, 0% to 100%). The residue was dissolved in 1 mL of 1:1 TFA/CH2Cl2, stirred for 1 h and concentrated. Neutralization with EtOAc/sat'd NaHCO3 extraction and drying (MgSO4) gave desired product, N-[2-amino-5-(2-thienyl)phenyl]-6-(2,7-diazaspiro[3.5]non-7-yl)nicotinamide, which was confirmed by MS (ESI+): cal'd [M+H]+ 420.2, obs'd 420.1.

reactant | tert-Butyl [2-{[(6-chloropyridin-3-yl)carbonyl]amino}-4-(2-thienyl)phenyl]carbamate | ClC1=CC=C(C=N1)C(=O)NC1=C(C=CC(=C1)C=1SC=CC1)NC(OC(C)(C)C)=O | C21H20ClN3O3S
reactant | Et3N | 0.010 mL | CCN(CC)CC | C6H15N
reactant | tert-butyl 2,7-diazaspiro[3.5]nonane-2-carboxylate | 0.047 mmol, 20 mg | C1N(CC12CCNCC2)C(=O)OC(C)(C)C | C12H22N2O2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | N-[2-amino-5-(2-thienyl)phenyl]-6-(2,7-diazaspiro[3.5]non-7-yl)nicotinamide | NC1=C(C=C(C=C1)C=1SC=CC1)NC(C1=CN=C(C=C1)N1CCC2(CNC2)CC1)=O | C23H25N5OS
